US08304419B2
A mixture of 3-bromo-5-({6-chloro-2-fluoro-3-[(6-oxo-6,7-dihydro-1H-purin-1-yl)methyl]phenyl}oxy)benzonitrile (78 mg, 0.164 mmol), allyltri-n-butyltin (0.082 ml, 0.263 mmol) and tetrakis(triphenylphosphine)palladium(0) (18.99 mg, 0.016 mmol) was heated in a personal microwave reactor at 160° C. for 20 min. The mixture was filtrated and was purified with reverse phase HPLC to afford a white solid 3-({6-chloro-2-fluoro-3-[(6-oxo-6,7-dihydro-1H-purin-1-yl)methyl]phenyl}oxy)-5-(2-propen-1-yl)benzonitrile (20 mg, 27.9% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.41 (s, 1H) 8.06-8.20 (m, 1H) 7.35-7.52 (m, 1H) 7.23-7.32 (m, 1H) 7.18 (s, 1H) 7.12 (s, 1H) 5.79-5.98 (m, 1H) 5.27 (s, 2H) 5.02 (s, 1H) 3.38 (d, 2H). LC-MS (ES+) m/z 435.50, [M+1].

reactant | 3-bromo-5-({6-chloro-2-fluoro-3-[(6-oxo-6,7-dihydro-1H-purin-1-yl)methyl]phenyl}oxy)benzonitrile | 0.164 mmol, 78 mg | BrC=1C=C(C#N)C=C(C1)OC1=C(C(=CC=C1Cl)CN1C=NC=2N=CNC2C1=O)F | C19H10BrClFN5O2
reactant | allyltri-n-butyltin | 0.263 mmol, 0.082 ml | C(C=C)[Sn](CCCC)(CCCC)CCCC
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.016 mmol, 18.99 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-({6-chloro-2-fluoro-3-[(6-oxo-6,7-dihydro-1H-purin-1-yl)methyl]phenyl}oxy)-5-(2-propen-1-yl)benzonitrile | 20 mg, 27.9% yield | ClC1=CC=C(C(=C1OC=1C=C(C#N)C=C(C1)CC=C)F)CN1C=NC=2N=CNC2C1=O | C22H15ClFN5O2
